US07217724B2
A solution of N,N-diethyl-2-{3-[(2R)-2-((2R)-2-hydroxy-2-pyridin-3-ylethylamino)propyl]-1H-indol-7-yloxy}acetamide (30 mg, 0.071 mmol) and potassium hydroxide (120 mg, 2.1 mmol) in water (1 mL)/ethanol (1 mL) is stirred at 60° C. for 6 hours. After cooling, to the mixture is added acetic acid (0.112 mL), and the mixture is concentrated. The residue is purified by preparative reversed phase HPLC (octadecylsilyl, trade name: Combiprep, ODS-A (YMC), inner diameter: 50×20 mm, particle size: 5 μm, pore size: 120 angstrom (hereinafter, this column is used in preparative reversed phase HPLC column), 0.05% trifluoroacetic acid/water-0.035% trifluoroacetic acid/acetonitrile) to give the desired {3-[(2R)-2-((2R)-2-hydroxy 2-pyridin-3-yl-ethylamino)propyl]-1H-indol-7-yloxy}acetic acid.2 trifluoroacetate (24 mg, yield: 57%).

reactant | N,N-diethyl-2-{3-[(2R)-2-((2R)-2-hydroxy-2-pyridin-3-ylethylamino)propyl]-1H-indol-7-yloxy}acetamide | 0.071 mmol, 30 mg | C(C)N(C(COC=1C=CC=C2C(=CNC12)C[C@@H](C)NC[C@@H](C=1C=NC=CC1)O)=O)CC | C24H32N4O3
reactant | potassium hydroxide | 2.1 mmol, 120 mg | [OH-].[K+]
reactant | ethanol | 1 mL | C(C)O | C2H6O
reactant | acetic acid | 0.112 mL | C(C)(=O)O | C2H4O2
solvent | water | 1 mL | O | H2O
product | {3-[(2R)-2-((2R)-2-hydroxy 2-pyridin-3-yl-ethylamino)propyl]-1H-indol-7-yloxy}acetic acid | O[C@@H](CN[C@@H](CC1=CNC2=C(C=CC=C12)OCC(=O)O)C)C=1C=NC=CC1 | C20H23N3O4
